US08008304B2
3.25 g (≅4.0 mmol) PS carbodiimide was added to a solution of 317 mg (2.0 mmol) N1-methyl-N1-(1,3,4-thiadiazol-2-yl)ethane-1,2-diamine and 542 mg (3.0 mmol) 3-(3-chloro-phenyl)propiolic acid in DCM (20 ml) and the reaction solution was shaken for 16 h at RT. The resin was subsequently filtered off, washed with DCM and ethanol and the filtrate concentrated in a vacuum. CC (chloroform) was performed with the residue, whereby 165 mg (0.51 mmol, 26%) 3-(3-chlorophenyl)-N-(2-(methyl(1,3,4-thiadiazol-2-yl)amino)ethyl)propiolamide was obtained.

reactant | carbodiimide | N=C=N | CH2N2
reactant | N1-methyl-N1-(1,3,4-thiadiazol-2-yl)ethane-1,2-diamine | 2.0 mmol, 317 mg | CN(CCN)C=1SC=NN1 | C5H10N4S
reactant | 3-(3-chloro-phenyl)propiolic acid | 3.0 mmol, 542 mg | ClC=1C=C(C=CC1)C#CC(=O)O | C9H5ClO2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-chlorophenyl)-N-(2-(methyl(1,3,4-thiadiazol-2-yl)amino)ethyl)propiolamide | 0.51 mmol, 165 mg, 26% | ClC=1C=C(C=CC1)C#CC(=O)NCCN(C=1SC=NN1)C | C14H13ClN4OS
